US04301290
Decahydro-4a-(3-hydroxyphenyl)-2-methyl-6-methylene-cis-isoquinoline [process (h)]
3.93 g (11 mmol) of methyl triphenylphosphonium bromide in 100 ml of absolute dimethyl formamide is treated with 1.01 g of a 50% w/w sodium hydride dispersion in oil (21 mmol) under nitrogen. The mixture is stirred for 1 hour at room temperature, and then treated with 2.59 g of octahydro-4a-(3-hydroxyphenyl)-2-methyl-cis-6(2H)-isoquinolinone. The mixture is stirred for 16 hours at 40°, and partitioned between methylene chloride and aqueous ammonium sulphate. Evaporation of the organic phase and chromatographic purification on silicagel gives the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | octahydro-4a-(3-hydroxyphenyl)-2-methyl-cis-6(2H)-isoquinolinone | 2.59 g | OC=1C=C(C=CC1)[C@@]12CCN(C[C@H]2CCC(C1)=O)C | C16H21NO2
reactant | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | methyl triphenylphosphonium bromide | 11 mmol, 3.93 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Decahydro-4a-(3-hydroxyphenyl)-2-methyl-6-methylene-cis-isoquinoline | OC=1C=C(C=CC1)[C@@]12CCN(C[C@H]2CCC(C1)=C)C | C17H23NO
